US08211908B2
To a solution of 0.26 g of tert-butyl (1-(2-(2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate in 4 mL of dichloromethane, 2 mL of trifluoroacetic acid was added, and the mixture was stirred at room temperature for 2 hours. The solvent was distilled off under reduced pressure, water and diethyl ether was added to the resultant residue, and the aqueous layer was separated and washed with diethyl ether, and then, thereto was added a 20% aqueous sodium hydroxide solution and the reaction mixture was adjusted to pH 13 to 14. Thereto were added dichloromethane and sodium chloride, the organic layer was separated, and the aqueous layer was extracted with chloroform while being salted out. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.15 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-1,8-naphthyridin-2(1H)-one as a yellow oily substance.

reactant | tert-butyl (1-(2-(2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 0.26 g | O=C1N(C2=NC=CC=C2C=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O | C20H28N4O3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-(4-aminopiperidin-1-yl)ethyl)-1,8-naphthyridin-2(1H)-one | 0.15 g | NC1CCN(CC1)CCN1C(C=CC2=CC=CN=C12)=O | C15H20N4O
